datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][O:5][H:14])[H:10])([H:8])[H:9])([H:6])[H:7].[O:15][O:16]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][O:5][H:14])[H:10])([H:8])[H:9])([H:6])([H:7])[O:15][O:16],0.8313608
[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([C:6](=[C:7]([H:15])[H:16])[H:14])[H:13])[H:12])([H:10])[H:11])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])[C:5]1([C:6](=[C:7]([H:15])[H:16])[H:14])[H:13])[H:8],154.975
[C:1]1([H:3])[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]12[C:13]([H:14])([H:15])[C:16]([H:17])=[C:18]([H:19])[C:20]([H:21])=[C:22]2[H:24]>>[C:1]1([H:3])[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]23[C:13]([H:14])([H:15])[C:16]([H:17])=[C:18]([H:19])[C:20]2([H:21])[C:22]13[H:24],30.1248
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9]=[C:10]([H:12])[H:13])[H:11]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:8](=[C:9]=[C:10]([H:12])[H:13])[H:11],56.484
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[S:8]([S:9][H:11])[H:10]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:10])([H:3])[H:4].[S:8][S:9][H:11],-23.012
[C:0]([C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])([H:6])[H:7])([H:4])[H:5]>>[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])[H:7])([H:4])[H:5].[H:6],217.568
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7].[C:12]([C:13]([C:14]([C:15]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:19])[H:8])([H:5])([H:6])[H:7].[C:12]([C:13]([C:14]([C:15]([H:23])([H:24])[H:25])([H:21])[H:22])[H:20])([H:16])([H:17])[H:18],74.0568
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](#[C:9][C:10]=[S:11])[H:12]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:10]([C:9]#[C:8][H:12])=[S:11],64.852
[C:0]([O:1][C:2]([C:3]([H:8])([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0]([O:1][C:2]([C:3]([H:9])[H:10])=[O:4])([H:5])([H:6])[H:7].[H:8][C:11](=[C:12]([H:14])[H:15])[H:13],43.5136
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][O:17],19.940944
[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]1[H:15])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])[C:2]2([H:10])[C:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]2[H:15],126.7752
[C:0]([O:1][O:2][O:3][H:7])([H:4])([H:5])[H:6].[H:8]>>[C:0]([O:1])([H:4])([H:5])[H:6].[O:2]([O:3][H:7])[H:8],37.3413
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8](=[C:9]([H:19])[H:20])[H:18])[H:17])[H:16])([H:14])[H:15])[H:13])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])([H:15])[C:6]1([C:7]([C:8](=[C:9]([H:19])[H:20])[H:18])[H:17])[H:16])[H:10],102.173
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[O:8][N:9]=[O:10]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][O:8][N:9]=[O:10],173.2176
[C:0]1([H:7])[C:1]([H:8])=[C:2]([H:9])[C:3]([H:10])=[C:4]2[C:5]([H:11])([H:12])[C:6]12[H:13]>>[c:0]1([H:7])[c:1]([H:8])[c:2]([H:9])[c:3]([H:10])[c:4]([C:5]([H:11])[H:12])[c:6]1[H:13],12.552
[O:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:7].[O:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],522.12136
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[H:6]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[H:6])[H:4],17.2799
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:21][H:38],18.706664
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:4])([H:5])[H:6].[C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])([H:7])[C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20])([H:4])([H:5])[H:6],45.0198
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([C:9](=[S:10])[H:15])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8]([C:7]([H:11])([H:12])[H:13])([C:9](=[S:10])[H:15])[H:14],72.3832
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:5][O:6][H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:5])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6][H:18],191.16696
